US08735440B2
Step 3: 6-bromo-3-methyl-9H-pyrido[3,4-b]indole (P7C3-S226)
Following a published procedure (Tetrahedron, 2002, 5251) 6-bromo-9H-pyrido[3,4-b]indole-3-carbaldehyde (40 mg, 0.145 mmol), hydrazine hydrate (51 mg, 1.02 mmol) and KOH (29 mg, 0.509 mmol) were combined in 0.5 mL of ethylene glycol and heated to 150° C. overnight. The reaction was cooled to room temperature. Ice chips were added and the mixture was stirred in an ice bath for 1 hour. White precipitate formed which was filtered and dried to afford the desired compound in 73% yield.

reactant | 6-bromo-9H-pyrido[3,4-b]indole-3-carbaldehyde | 0.145 mmol, 40 mg | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C=O | C12H7BrN2O
reactant | hydrazine hydrate | 1.02 mmol, 51 mg | O.NN
reactant | KOH | 0.509 mmol, 29 mg | [OH-].[K+]
solvent | ethylene glycol | 0.5 mL | C(CO)O | C2H6O2
product | 6-bromo-3-methyl-9H-pyrido[3,4-b]indole | 73% yield | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C | C12H9BrN2
